US04753953
7-[3-(N-Acetyl-N-methylamino)-4-methyl-1-pyrrolidinyl]-1-cyclopropyl-6,8-difluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid
A mixture of 1-cyclopropyl-6,7,8-trifluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid (0.5 g), anhydrous acetonitrile (5 ml), 3-(N-acetyl-N-methylamino)-4-methylpyrrolidine (0.42 g) and DBU (0.27 g) was refluxed for an hour and allowed to stand overnight. The resulting precipitate was collected by filtration and washed with acetonitrile-ether to give the title compound (0.56 g) as pale yellow powder.

reactant | 1-cyclopropyl-6,7,8-trifluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid | 0.5 g | C1(CC1)N1C=C(C(C2=CC(=C(C(=C12)F)F)F)=O)C(=O)O | C13H8F3NO3
reactant | 3-(N-acetyl-N-methylamino)-4-methylpyrrolidine | 0.42 g | C(C)(=O)N(C)C1CNCC1C | C8H16N2O
reactant | DBU | 0.27 g | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | acetonitrile | 5 ml | C(C)#N | C2H3N
product | 7-[3-(N-Acetyl-N-methylamino)-4-methyl-1-pyrrolidinyl]-1-cyclopropyl-6,8-difluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid | 0.56 g | C(C)(=O)N(C)C1CN(CC1C)C1=C(C=C2C(C(=CN(C2=C1F)C1CC1)C(=O)O)=O)F | C21H23F2N3O4
